US05023250
(i) 3β-benzoyloxy-4,4-dimethyl-5α-cholest-7-ene
4,4-Dimethyl-5α-cholest-7-en-3β-ol [prepared according to J. Biol. Chem., 233:1343 (1958)]was converted to the title compound with benzoyl chloride in pyridine at ambient temperature for 18 hours. 3β-benzoyloxy-4,4-dimethyl-5α-cholest-7-ene had an mp of 160°-161° C. (from CH2Cl2/MeOH).

reactant | 4,4-Dimethyl-5α-cholest-7-en-3β-ol | CC1([C@@H]2CC=C3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC[C@@H]1O)C)C)C | C29H50O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3β-benzoyloxy-4,4-dimethyl-5α-cholest-7-ene | C(C1=CC=CC=C1)(=O)O[C@@H]1C([C@@H]2CC=C3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)(C)C | C36H54O2
